US07968538B2
6-Chloro-N-(5-fluoro-2-(methylsulfonyl)phenyl)chroman-4-amine
A solution of 6-chlorochroman-4-amine hydrochloride (551.0 mg, 2.50 mmol), 2,4-difluoro-1-(methylsulfonyl)benzene (496.0 mg, 2.50 mmol) and diisopropylethylamine (1.29 g, 10.0 mmol) in N,N-dimethylformamide (10 mL) was stirred at 110° C. for 16 h. The reaction was cooled to room temperature, poured over water and extracted with diethyl ether. The solvent was concentrated in vacuo and the residue was purified by silica chromatography (20% ethyl acetate in hexanes) to yield 143.0 mg (16%) of the desired product: 1H NMR (400 MHz, CDCl3) δ 7.82 (dd, 1H), 7.19 (m, 2H), 6.83 (d, 1H), 6.57 (m, 2H), 4.60 (m, 1H), 4.30 (m, 1H), 4.28 (m, 1H), 3.01 (s, 3H), 2.19 (m, 2H).

reactant | 6-chlorochroman-4-amine hydrochloride | 2.50 mmol, 551.0 mg | Cl.ClC=1C=C2C(CCOC2=CC1)N
reactant | 2,4-difluoro-1-(methylsulfonyl)benzene | 2.50 mmol, 496.0 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)C | C7H6F2O2S
reactant | diisopropylethylamine | 10.0 mmol, 1.29 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-Chloro-N-(5-fluoro-2-(methylsulfonyl)phenyl)chroman-4-amine | 143.0 mg, 16% | ClC=1C=C2C(CCOC2=CC1)NC1=C(C=CC(=C1)F)S(=O)(=O)C | C16H15ClFNO3S
